US09447090B2
To 500 mg of methyl 6,6a-dihydro-1aH-indeno[1,2-b]oxirene-1a-carboxylate were added 860 mg of sodium azide, 309 mg of ammonium chloride, 4 ml of methanol, and 0.5 ml of water, followed by stirring at 80° C. for 2 hours. To the reaction mixture were added a saturated aqueous sodium hydrogen carbonate solution, water, and ethyl acetate to carry out a layer separation operation, and the organic layer was dried over anhydrous magnesium sulfate. To a solution of the obtained intermediate product in ethyl acetate-methanol was added 61 mg of 10% palladium-carbon (wet), followed by stirring for 6 hours under a hydrogen atmosphere. The reaction mixture was filtered over Celite and the solvent was then evaporated under reduced pressure to obtain 0.51 g of methyl rac-(1R,2R)-1-amino-2-hydroxyindane-1-carboxylate.

reactant | methyl 6,6a-dihydro-1aH-indeno[1,2-b]oxirene-1a-carboxylate | 500 mg | O1C2(C1CC=1C=CC=CC12)C(=O)OC | C11H10O3
reactant | sodium azide | 860 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 309 mg | [Cl-].[NH4+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 0.5 ml | O | H2O
solvent | methanol | 4 ml | CO | CH4O
product | methyl rac-(1R,2R)-1-amino-2-hydroxyindane-1-carboxylate | 0.51 g | NC1(C(CC2=CC=CC=C12)O)C(=O)OC | C11H13NO3
